US04279637
PREPARATION OF N-[4-(3-PENTYLPHENOXY)-2,3,5,6-TETRAPENTYL]-N'-(2,2-DIMETHOXYETHYL)-N-METHYLUREA
[4-(3-Pentylphenoxy)-3-pentylphenyl]carbamate (0.1 mole) and toluene (100 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer and condenser. N-(2,2-dimethoxyethyl)methanamine (0.15 mole) is added to the vessel and the mixture is refluxed for 16 hours. Solvent is then removed by mild warming under reduced pressure to yield the desired product N-[4-(3-pentylphenoxy)-3-pentylphenyl]-N'-(2,2-dimethoxyethyl)-N'-methylurea.

reactant | [4-(3-Pentylphenoxy)-3-pentylphenyl]carbamate | 0.1 mole | C(CCCC)C=1C=C(OC2=C(C=C(C=C2)NC([O-])=O)CCCCC)C=CC1
reactant | N-(2,2-dimethoxyethyl)methanamine | 0.15 mole | COC(CNC)OC | C5H13NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(3-pentylphenoxy)-3-pentylphenyl]-N'-(2,2-dimethoxyethyl)-N'-methylurea | C(CCCC)C=1C=C(OC2=C(C=C(C=C2)NC(=O)N(C)CC(OC)OC)CCCCC)C=CC1 | C28H42N2O4
